US07671205B2
Synthesis of N-(isoquinolin-6-yl)-3-(4-(3-(3-(trifluoromethyl)phenyl)ureido)phenyl)propanamide (E110)
Steps one, three and four were performed as in Example 208. Step two is performed as follows: To methyl 3-(4-aminophenyl)propanoate in DMF is added DMAP and 3-trifluoromethylphenyl isocyanate and the solution was stirred at room temperature for 4 hours. The mixture was poured into NaHCO3 (sat), extracted with EtOAc, dried (Na2SO4), filtered and evaporated. The compound E210b was purified by flash chromatography.

reactant | methyl 3-(4-aminophenyl)propanoate | NC1=CC=C(C=C1)CCC(=O)OC | C10H13NO2
reactant | 3-trifluoromethylphenyl isocyanate | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(isoquinolin-6-yl)-3-(4-(3-(3-(trifluoromethyl)phenyl)ureido)phenyl)propanamide | C1=NC=CC2=CC(=CC=C12)NC(CCC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)=O | C26H21F3N4O2
